US05840732
iii) Synthesis of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-5-butylidenehydantoin hydrochloride
To a solution of 0.43 g (1.20 mmol) of 3-[4-(imidazo-[1,2-a]pyridin-5-ylthio)butyl]-5-butylidenehydantoin in 10 ml of methanol, 0.17 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 0.53 g (100%, brown solid) of the desired product.

reactant | 3-[4-(imidazo-[1,2-a]pyridin-5-ylthio)butyl]-5-butylidenehydantoin | 1.20 mmol, 0.43 g | N=1C=CN2C1C=CC=C2SCCCCN2C(NC(C2=O)=CCCC)=O | C18H22N4O2S
reactant | hydrochloric acid | 0.17 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-5-butylidenehydantoin hydrochloride | Cl.N=1C=CN2C1C=CC=C2SCCCCN2C(NC(C2=O)=CCCC)=O | InChI=1S/C18H22N4O2S.ClH/c1-2-3-7-14-17(23)22(18(24)20-14)11-4-5-13-25-16-9-6-8-15-19-10-12-21(15)16;/h6-10,12H,2-5,11,13H2,1H3,(H,20,24);1H
